US05136080
2. 2,4-Diamino-5-(5-amino-2-chlorophenyl)-6-methylpyrimidine
A solution of 2,4-diamino-5-(2-chloro-5-nitrophenyl)-6-methyl pyrimidine (13.9 g) in acetic acid (500 ml) was reduced under an atmosphere of hydrogen in the presence of PtO2 (0.28 g). The mixture was filtered through hyflo and the filtrate was concentrated. The residue was neutralised with saturated NaHCO3 solution and the product was extracted with ethyl acetate, bulked, dried (MgSO4) and evaporated. Chromatography on SiO2 gel, eluting with CHCl3 to 40% MeOH/CHCl3, gave the desired product, 6 g, mp. 117°-121° C.

reactant | 2,4-diamino-5-(2-chloro-5-nitrophenyl)-6-methyl pyrimidine | 13.9 g | NC1=NC(=C(C(=N1)N)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C | C11H10ClN5O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 0.28 g | O=[Pt]=O
product | 2,4-Diamino-5-(5-amino-2-chlorophenyl)-6-methylpyrimidine | NC1=NC(=C(C(=N1)N)C1=C(C=CC(=C1)N)Cl)C | C11H12ClN5
